US06610641B2
Quinolin-2-ylmethylbromide
A mixture of quinoline (30.0 g, 0.2 mol), N-bromsuccinimide (0.22 mol, 42 g) and a small amount of dibenzoylperoxide as initiator in freshly distilled benzene (300 ml) was irradiated with light. The mixture was cooled below 0° C. and precipitated succinimide removed by filtration. The solvent was then removed under reduced pressure to yield an oil which was added to 5% hydrobromic acid. After addition the mixture was cooled in an ice bath and a saturated solution of sodium carbonate was added slowly until the reaction mixture was pH 7. From the reaction mixture a yellow precipitate was removed by filtration and dried. The yellow precipitate was crystallized from pentane to yield the title compound.

reactant | quinoline | 0.2 mol, 30.0 g | N1=CC=CC2=CC=CC=C12 | C9H7N
reactant | N-bromsuccinimide | 0.22 mol, 42 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | dibenzoylperoxide | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
reactant | hydrobromic acid | Br | BrH
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | benzene | 300 ml | C1=CC=CC=C1 | C6H6
product | Quinolin-2-ylmethylbromide | N1=C(C=CC2=CC=CC=C12)CBr | C10H8BrN
